US08252792B2
To a mixture of 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (0.23 mmol, 84 mg) and 7-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (0,46 mmol, 117 mg) in toluene (2 mL), ethanol (1 mL) and water (0.5 mL) was added sodium carbonate (0.69 mmol, 73 mg). Pd (PPh3)2Cl2 (0.012 mmol, 8 mg) was added and the mixture heated in a microwave reactor at 130° C. for 1.5 hours. The mixture was allowed to cool and partitioned between water and dichloromethane. The combined organic layers were washed with brine, separated and dried (MgSO4). The solvent was evaporated and the crude product purified by column chromatography to yield 2-(7-methyl-1H-indol-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine as a pale cream solid (75 mg).

reactant | 2-Chloro-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 0.23 mmol, 84 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | 7-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 0,46 mmol, 117 mg | CC=1C=CC(=C2C=CNC12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | sodium carbonate | 0.69 mmol, 73 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
product | 2-(7-methyl-1H-indol-4-yl)-6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 75 mg | CC=1C=CC(=C2C=CNC12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C)N2CCOCC2 | C25H30N6OS
